US04886814
N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-(2-chloro-thiazol-4-yl)morpholine
Prepared by analogy to Example 71 by reaction of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-chloro-thiazol-4-yl)morpholine with borane/tetrahydrofuran complex (1 molar solution in tetrahydrofuran) for 60 hours.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-chloro-thiazol-4-yl)morpholine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)Cl | C19H23ClN2O4S
reactant | borane tetrahydrofuran | 1 molar | B.O1CCCC1
product | N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-(2-chloro-thiazol-4-yl)morpholine | OCCOC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)Cl | C18H23ClN2O3S
